US07820837B2
{6-[(2′,6′-dimethylbiphenyl-3-yl)methoxy]-1,2,3,4-tetrahydronaphthalen-1-yl}acetic acid
To a solution of ethyl (6-[(2′,6′-dimethylbiphenyl-3-yl)methoxy]-1,2,3,4-tetrahydronaphthalen-1-yl)acetate (0.15 g, 0.35 mmol) in a mixed solvent of ethanol (1 mL) and tetrahydrofuran (1 mL) was added 2 M aqueous sodium hydroxide solution (0.5 mL), and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was acidified with 1 M hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (0.08 g, yield 57%) as colorless prism crystals.

reactant | ethyl (6-[(2′,6′-dimethylbiphenyl-3-yl)methoxy]-1,2,3,4-tetrahydronaphthalen-1-yl)acetate | 0.35 mmol, 0.15 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)COC=1C=C2CCCC(C2=CC1)CC(=O)OCC | C29H32O3
reactant | ethanol | 1 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2 M, 0.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | Water | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | {6-[(2′,6′-dimethylbiphenyl-3-yl)methoxy]-1,2,3,4-tetrahydronaphthalen-1-yl}acetic acid | 0.08 g, yield 57% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)COC=1C=C2CCCC(C2=CC1)CC(=O)O | C27H28O3
